US07947738B2
(40-b) [(1S,5R,6R)-6-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-3-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid
Sodium hydride (63%, 2.48 g, 65.0 mmol) was added in small portions to a tetrahydrofuran solution (25 mL) of [(1S,5R,6R)-6-{[(tert-butoxycarbonyl)amino]methyl}-3-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid (2.01 g, 6.50 mmol) and methyl iodide (4.05 mL, 65.0 mmol) with stirring at room temperature. The mixture was stirred at this temperature for 6 hours, and water (50 mL) was then added thereto while the reaction solution was cooled on ice, followed by washing with diethyl ether. The aqueous layer was made acidic using 1 M citric acid, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate. The residue was filtered and concentrated under reduced pressure. Then, the obtained crude product was purified by silica gel column chromatography to obtain the compound of interest as an oil substance (2.00 g, 95%).

reactant | Sodium hydride | 65.0 mmol, 2.48 g | [H-].[Na+]
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
reactant | [(1S,5R,6R)-6-{[(tert-butoxycarbonyl)amino]methyl}-3-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid | 6.50 mmol, 2.01 g | C(C)(C)(C)OC(=O)NC[C@@]1([C@H]2C=C(C[C@H]2C1)CC)CC(=O)O | C17H27NO4
reactant | methyl iodide | 65.0 mmol, 4.05 mL | CI | CH3I
solvent | water | 50 mL | O | H2O
product | [(1S,5R,6R)-6-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-3-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid | C(C)(C)(C)OC(=O)N(C)C[C@@]1([C@H]2C=C(C[C@H]2C1)CC)CC(=O)O | C18H29NO4
